US04312861
36.5 g (0.2 mol) of 2,3,5,6-tetramethylbenzyl chloride, 46.0 g (0.4 mol) of 2-aminoheptane and 100 ml of benzene are refluxed for 2 hours. The solvent is then removed in vacuo. A solution of 8 g (0.2 mol) of sodium hydroxide in methanol is then added to the residue to liberate the free base. The reaction product is separated from the precipitated sodium chloride by means of a suction filter, and the excess of 2-aminoheptane is removed by vacuum distillation. The 2-(2,3,5,6-tetramethylbenzyl)aminoheptane obtained is then treated with ethereal hydrochloric acid to convert it into the hydrochloride which is recrystallised from methanol/ethyl acetate. The melting point of the hydrochloride is 155° C.

reactant | 2,3,5,6-tetramethylbenzyl chloride | 0.2 mol, 36.5 g | CC1=C(CCl)C(=C(C=C1C)C)C | C11H15Cl
reactant | 2-aminoheptane | 0.4 mol, 46.0 g | NC(C)CCCCC | C7H17N
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
reactant | sodium hydroxide | 0.2 mol, 8 g | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 2-(2,3,5,6-tetramethylbenzyl)aminoheptane | CC1=C(CNC(C)CCCCC)C(=C(C=C1C)C)C | C18H31N
